US05428165
Nitration of malonic acid with acetyl nitrate in acetic acid/acetic anhydride was conducted to obtain nitromalonic acid. To the nitromalonic acid is added urea to obtain a condensation reaction mixture which is refluxed to form dilituric acid in situ. Various salts are separately prepared from the dilituric acid in situ using as cation sources potassium chloride, ammonia, and guanidinium chloride. The potassium diliturate salt, ammonium diliturate, guanidinium diliturate salts are each recovered and isolated by filtration.

reactant | nitromalonic acid | [N+](=O)([O-])C(C(=O)O)C(=O)O | C3H3NO6
reactant | urea | NC(=O)N | CH4N2O
product | dilituric acid | C1(C(=O)NC(=O)NC1=O)[N+](=O)[O-] | C4H3N3O5
